US06274608B1
1-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanol
To a solution of 1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone (500 mg; 2.0 mmol) in dry THF (5 ml) was added slowly LiAlH4 (80 mg; 2.0 mmol) at 0° C. The reaction mixture was stirred for 3 hours, and then water (20 ml) was added. Ether (50 ml) was added and the mixture was filtered through filter aid. The organic phase was separated and the water phase was extracted with ether. The combined organic phases were dried and evaporated to give the title compound in 504 mg (100%) yield.

reactant | 1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone | 2.0 mmol, 500 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)=O | C17H24O
reactant | LiAlH4 | 2.0 mmol, 80 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 20 ml | O | H2O
reactant | Ether | 50 ml | CCOCC | C4H10O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanol | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)O | C17H26O
